US06048878
b) 1-tert-Butyloxycarbonyl-4-(2-phenylpropyl)-4-hydroxypiperidine
A solution of 1-tert-butyloxycarbonyl-4-[(2-phenyl)allyl]4-hydroxypiperidine (1.67 g, 5.26 mmol) in ethyl acetate (25 ml) was hydrogenated over 1% palladium on activated carbon (0.8 g) at room temperature and 1 atm pressure of hydrogen for 1.5 hours. The mixture was filtered and the filtrate was concentrated to yield the title compound (1.47 g, 87%) as a pale yellow glass. δH (250 MHz, CDCl3) 1.27 (3 H, d, J=7), 1.36-1.60 (13 H, m), 1.73 (1 H, dd, J=15 and 4), 2.01 (1 H, dd, J=15 and 10), 2.98-3.06 (3 H, m), 3.60-3.88 (2 H, m) and 7.16-7.36 (5 H, m); m/z (ES) 320 (M+ +1).

reactant | 1-tert-butyloxycarbonyl-4-[(2-phenyl)allyl]4-hydroxypiperidine | 5.26 mmol, 1.67 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(O)CC(=C)C1=CC=CC=C1 | C19H27NO3
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on activated carbon | 0.8 g | [Pd] | Pd
product | 1-tert-Butyloxycarbonyl-4-(2-phenylpropyl)-4-hydroxypiperidine | 1.47 g, 87% | C(C)(C)(C)OC(=O)N1CCC(CC1)(O)CC(C)C1=CC=CC=C1 | C19H29NO3
